US05527934
In the same apparatus and procedures as EXAMPLE 1, 37.5 g (0.153 mole) of 3-(ethylphenyl)-1,1-dichloro-1-silabutane and 100 μl of 1% chloroplatinic acid solution in isopropanol were placed and then 5 g (0.061 mole) of 1,5-hexadiene was added dropwise for 5 min. The solution was reacted for 14 hours at reflux under the dry nitrogen atmosphere. Vacuum distillation gave 24.6 g (190°-192° C./0.03 mmHg) of bis[{2-(ethylphenyl)propyl}dichlorosilyl]hexane in 69.8% yield.

reactant | 3-(ethylphenyl)-1,1-dichloro-1-silabutane | 0.153 mole, 37.5 g | C(C)C1=C(C=CC=C1)C(C[SiH](Cl)Cl)C | C11H16Cl2Si
reactant | 1,5-hexadiene | 0.061 mole, 5 g | C=CCCC=C | C6H10
solvent | isopropanol | C(C)(C)O | C3H8O
catalyst | chloroplatinic acid | 100 μl | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | bis[{2-(ethylphenyl)propyl}dichlorosilyl]hexane | 24.6 g, 69.8% yield | C(C)C1=C(C=CC=C1)C(C[Si](Cl)(Cl)C(CCCCC)[Si](CC(C)C1=C(C=CC=C1)CC)(Cl)Cl)C | C28H42Cl4Si2
